US08735398B2
Step 3. Preparation of (S)-benzyl 3-(1-benzyl-1H-1,2,3-triazol-4-yl)-2-(methoxycarbonylamino)propanoate (cj-29)
A solution of (S)-benzyl 3-(1-benzyl-1H-1,2,3-triazol-4-yl)-2-(tert-butoxycarbonylamino)propanoate (0.52 g, 1.15 mmol) in CH2Cl2 was added TFA (4 mL). The mixture was allowed to stir at room temperature for 2 h. The mixture was concentrated in vacuo to give a colorless oil which solidified on standing. This material was dissolved in THF-H2O and cooled to 0° C. Solid NaHCO3 (0.25 g, 3.00 mmol) was added followed by C1CO2Me (0.25 mL, 3.25 mmol). After stirring for 1.5 h the mixture was acidified to pH˜2 with 6N HCl and then poured into H2O-EtOAc. The layers were separated and the aq phase extracted 2× with EtOAc. The combined org layers were washed (H2O, brine), dried (Na2SO4), filtered, and concentrated in vacuo to give a colorless oil (505.8 mg, 111%, NMR suggested the presence of an unidentified impurity) which solidified while standing on the pump. The material was used as is without further purification. 1H NMR (400 MHz, DMSO-d6) δ 7.87 (s, 1H), 7.70 (d, J=8.1 Hz, 1H), 7.27-7.32 (m, 10H), 5.54 (s, 2H), 5.10 (d, J=12.7 Hz, 1H), 5.06 (d, J=12.7 Hz, 1H), 4.32-4.37 (m, 1H), 3.49 (s, 3H), 3.09 (dd, J=5.6, 14.7 Hz, 1H), 2.98 (dd, J=9.6, 14.7 Hz, 1H). LC-MS: Anal. Calcd. for C21H22N4O4: 394; found: 395 (M+H)+.

reactant | (S)-benzyl 3-(1-benzyl-1H-1,2,3-triazol-4-yl)-2-(tert-butoxycarbonylamino)propanoate | 1.15 mmol, 0.52 g | C(C1=CC=CC=C1)N1N=NC(=C1)C[C@@H](C(=O)OCC1=CC=CC=C1)NC(=O)OC(C)(C)C | C24H28N4O4
reactant | TFA | 4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | 3.00 mmol, 0.25 g | C(=O)(O)[O-].[Na+]
reactant | HCl | 6N | Cl | ClH
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | THF H2O | C1CCOC1.O
solvent | H2O EtOAc | O.CCOC(=O)C
product | (S)-benzyl 3-(1-benzyl-1H-1,2,3-triazol-4-yl)-2-(methoxycarbonylamino)propanoate | C(C1=CC=CC=C1)N1N=NC(=C1)C[C@@H](C(=O)OCC1=CC=CC=C1)NC(=O)OC | C21H22N4O4
